US03937761
2-t-butylazo-2-hydroxypropane was prepared by reacting aqueous sodium hydroxide and 2-t-butylazo-2-chloropropane in t-butyl alcohol. The 2-t-butylazo-2-hydroxypropane was isolated by diluting the alcohol solution with water and extracting with pentane.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-t-butylazo-2-chloropropane | C(C)(C)(C)N=NC(C)(C)Cl | C7H15ClN2
solvent | t-butyl alcohol | C(C)(C)(C)O | C4H10O
product | 2-t-butylazo-2-hydroxypropane | C(C)(C)(C)N=NC(C)(C)O | C7H16N2O
